US08980899B2
4-nitrobenzoic acid (5 g, 29.9 mmol; Sigma-Aldrich) was combined with oxaylyl chloride (13.1 mL, 149.5) and DMF (0.1 mL) in 50 mL of dichloromethane and stirred for 2 hours at room temperature to yield a clear yellow solution. The reaction mixture was concentrated in vacuo and washed twice with dichloromethane to yield a bright yellow solid. The solid was dissolved in dry THF and added dropwise to a round bottom flask containing a cooled solution of melanonitrile (2.96 g, 44.9 mmol) and NaH (8.45 g of a 60% oil emulsion, 95.7 mmol) in THF. The reaction was allowed to warm slowly to room temperature and left stirring for 2 hours. Following, 25 mL of 2N HCl and 50 mL of brine were added, and the organic layer was extracted 3 times using EtOAc. The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. This brown solid was dissolved in 50 mL of H2O/dioxane (1:8), NaHCO3 (20.1 g, 239 mmol), and dimethyl sulfate (14.2 mL, 150 mmol). The solution was heated to 80° C. for four hours. After cooling, brine was added, and the organic layer was extracted three times using EtOAc. The combined extracts were dried, concentrated in vacuo, and purified on silica in EtOAc-Hexanes (50-100% gradient). The pure yellow solid containing 2-(methoxy(4-nitrophenyl)methylene) malononitrile (100 mg, 0.436 mmol) was added dropwise to monomethylhydrazine (20.1 mg, 0.436 mmol) in ice-cold THF. After 2 hours the reaction was complete as judged by TLC, giving 5-amino-1-methyl-3-(4-nitrophenyl)-1H-pyrazole-4-carbonitrile (ESI-MS m/z [M+H]+ found 243.9, calculated 244.1), which was concentrated in vacuo, suspended in 2 mL of formamide, and heated to 165° C. for 12 hours. Following, the solution was cooled, 8 mL of H2O was added, and a brown solid was collected by filtration. The purified solid 1-methyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 270.9, calculated 271.1; 60 mg, 0.222 mmol) was combined with zinc dust (0.4 g), 10 mL THF, and 0.25 mL HOAc for 12 hours at room temperature. Afterwards, the reaction mixture was filtered through Celite®, extracted with EtOAc, and concentrated in vacuo to yield 3-(4-aminophenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 241.0, calculated 241.1). To this reduced product, molar equivalents of 3-(trifluoromethyl)phenyl isocyanate (Sigma-Aldrich) were added dropwise in ice-cold CH2Cl2. The reaction proceeded until completion as judged by TLC, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to afford AD59 1-(4-(4-amino-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)-3-(3-(trifluoromethyl)phenyl)urea (ESI-MS m/z [M+H]+ found 428.0, calculated 428.1).

reactant | 1-methyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.222 mmol, 60 mg | CN1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)[N+](=O)[O-] | C12H10N6O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.4 g | [Zn] | Zn
solvent | HOAc | 0.25 mL | CC(=O)O | C2H4O2
product | 3-(4-aminophenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C | C12H12N6
